US04450164
5-Phenylmethoxy-2,3-dimethylimidazo[1,2-a]pyridine
Sodium hydride (50% in oil, 4.8 g) is added to a solution of benzyl alcohol(6.48 g) in dimethylformamide (200 ml). 5-chloro-2,3-dimethylimidazo[1,2-a]pyridine hydrobromide (10.5 g) is addedand the mixture is stirred at room temperature for two hours.

reactant | Sodium hydride | 4.8 g | [H-].[Na+]
reactant | benzyl alcohol | 6.48 g | C(C1=CC=CC=C1)O | C7H8O
reactant | 5-chloro-2,3-dimethylimidazo[1,2-a]pyridine hydrobromide | 10.5 g | Br.ClC1=CC=CC=2N1C(=C(N2)C)C
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 5-Phenylmethoxy-2,3-dimethylimidazo[1,2-a]pyridine | C1(=CC=CC=C1)COC1=CC=CC=2N1C(=C(N2)C)C | C16H16N2O
